US05616620
b) (R)-N5 -[Amino (nitroimino) methyl]-N-[[4-(hydroxymethyl)-phenyl]methyl]-ornithinamide
Prepared analogously to Example 23b) from (R)-N5 -[amino(nitroimino)methyl]-N2 -(tert.-butoxycarbonyl)-N-[[4-(hydroxymethyl)phenyl]methyl]-ornithinamide by the action of trifluoroacetic acid in a yield of 83% of theory.

reactant | (R)-N5 -[amino(nitroimino)methyl]-N2 -(tert.-butoxycarbonyl)-N-[[4-(hydroxymethyl)phenyl]methyl]-ornithinamide | NC(NCCC[C@@H](NC(=O)OC(C)(C)C)C(=O)NCC1=CC=C(C=C1)CO)=N[N+](=O)[O-] | C19H30N6O6
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (R)-N5 -[Amino (nitroimino) methyl]-N-[[4-(hydroxymethyl)-phenyl]methyl]-ornithinamide | yield of 83% | NC(NCCC[C@@H](N)C(=O)NCC1=CC=C(C=C1)CO)=N[N+](=O)[O-] | C14H22N6O4
